US07629363B2
Step 2: 1-[2-chloro-5-(hydroxymethyl)phenyl]-4-hydroxy-6-methylpyridin-2(1H)-one
3-amino-4-chloro-benzyl alcohol (8.0 g, 51.0 mmol) and 4-hydroxy-6-methyl-2-pyrone (6.4 g, 51.0 mmol) were taken up in 1,2-dichlorobenzene (50 ml). The mixture was plunged into a 165° C. oil bath where it stirred for 20 minutes. The reaction was cooled to room temperature and the reaction was worked up by washing with saturated NaHCO3 (aq.) and extracting impurities with ethyl acetate. The product remained in the aqueous layer. The basic aqueous layer was made acidic with concentrated HCl. The product was extracted from the acidic aqueous layer with ethyl acetate. The ethyl acetate layer was dried over Na2SO4 and the solvent removed in vacuo. The product was obtained as a yellow oil in a 26% yield and was carried through to the next step with no further purification. 1H NMR (300 MHz, CD3OD) δ 7.62 (d, J=8.26 Hz, 2H), 7.51 (dd, J=8.46, 2.22 Hz, 1H), 7.36 (d, J=2.01 Hz, 1H), 6.13 (br s, 1H), 5.84 (d, J=2.42 Hz, 1H), 4.68 (s, 2H), 1.97 (s, 3H); LC/MS, tr=0.25 minutes and 1.41 minutes (tautomer), (5 to 95% acetonitrile/water over 5 minutes at 1 ml/min with detection 254 nm, at 50° C.). ES-MS m/z 266 (M+H).

reactant | 3-amino-4-chloro-benzyl alcohol | 51.0 mmol, 8.0 g | NC=1C=C(CO)C=CC1Cl | C7H8ClNO
reactant | 4-hydroxy-6-methyl-2-pyrone | 51.0 mmol, 6.4 g | OC1=CC(OC(=C1)C)=O | C6H6O3
solvent | 1,2-dichlorobenzene | 50 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-[2-chloro-5-(hydroxymethyl)phenyl]-4-hydroxy-6-methylpyridin-2(1H)-one | 26% yield | ClC1=C(C=C(C=C1)CO)N1C(C=C(C=C1C)O)=O | C13H12ClNO3
